US20010056123A1
Step 3: Synthesis of ethyl 3-[4-cyano-2-(2-((1-(pyridine-4-yl)piperidine-4-carbonyl)amino)ethoxy)phenyl]acrylate:
3.0 g (8.33 mmol) of ethyl 3-[2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyanophenyl]acrylate was dissolved in a mixture of 20 ml of 4 N solution of hydrogen chloride in dioxane and 10 ml of dioxane. The obtained solution was stirred at room temperature for 4 hours. The solvent was evaporated and the residue was dissolved in 50 ml of DMF. 2.22 g (9.17 mmol) of 1-(4-pyridyl)-4-piperidinecarboxyic acid hydrochloride, 4.27 g (9.17 mmol) of bromotripyrrolidinophosphonium hexafluorophosphate and 3.48 ml (25.0 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature for 3 days. The solvent was evaporated, and the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl 3-[2-(2-(t-butoxycarbonylamino)ethoxy)-4-cyanophenyl]acrylate | 8.33 mmol, 3.0 g | C(C)(C)(C)OC(=O)NCCOC1=C(C=CC(=C1)C#N)C=CC(=O)OCC | C19H24N2O5
reactant | 1-(4-pyridyl)-4-piperidinecarboxyic acid hydrochloride | 9.17 mmol, 2.22 g | Cl.N1=CC=C(C=C1)N1CCC(CC1)C(=O)O
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 9.17 mmol, 4.27 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | triethylamine | 25.0 mmol, 3.48 ml | C(C)N(CC)CC | C6H15N
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-[4-cyano-2-(2-((1-(pyridine-4-yl)piperidine-4-carbonyl)amino)ethoxy)phenyl]acrylate | C(#N)C1=CC(=C(C=C1)C=CC(=O)OCC)OCCNC(=O)C1CCN(CC1)C1=CC=NC=C1 | C25H28N4O4
